US07714009B2
7-(Bromomethyl)-N-mesityl-1,3-benzothiazol-2-amine
To 0.065 g (0.22 mmol) of 7-(hydroxymethyl)-N-mesityl-1,3-benzothiazol-2-amine in 2 mL of dichloromethane was added 58 μL (0.72 mmol) of pyridine and 0.24 mL (0.24 mmol) of phosphorous tribromide (1 M in dichloromethane). The reaction was stirred at room temperature for 8 h and quenched with saturated sodium bicarbonate. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated to give 0.045 g (57%) of the title compound that was used without further purification.

reactant | 7-(hydroxymethyl)-N-mesityl-1,3-benzothiazol-2-amine | 0.22 mmol, 0.065 g | OCC1=CC=CC=2N=C(SC21)NC2=C(C=C(C=C2C)C)C | C17H18N2OS
reactant | pyridine | 0.72 mmol, 58 μL | N1=CC=CC=C1 | C5H5N
reactant | phosphorous tribromide | 0.24 mmol, 1 M, 0.24 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 7-(Bromomethyl)-N-mesityl-1,3-benzothiazol-2-amine | 0.045 g, 57% | BrCC1=CC=CC=2N=C(SC21)NC2=C(C=C(C=C2C)C)C | C17H17BrN2S
